US07414049B2
d) (R or S)-2-Hydroxy-N-[(S)-5-(2-hydroxy-ethyl)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
A solution of 72 mg of the first eluting epimer (R or S)-N-[(S)-5-(2-benzyloxy-ethyl)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide in 3.0 ml of methanol was treated with 24 mg of palladium on carbon (10%) and stirred for 24 hours under an atmosphere of hydrogen. For the working-up, the reaction mixture was filtrated over Dicalit and the solvent evaporated under reduced pressure. The crude material was purified by chromatography on silica gel using a gradient of heptane/ethyl acetate=100/0 to 30/60 as the eluent, and 46 mg (79% of theory) of the title compound were obtained as a white foam; MS (m/e): 551 (M+H)+.

reactant | N-[(S)-5-(2-benzyloxy-ethyl)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(N(C([C@H](C1)NC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)O)=O)=O)CC(F)(F)F)C=CC=C2 | C27H28F8N4O5
solvent | methanol | 3.0 ml | CO | CH4O
catalyst | palladium on carbon | 24 mg | [Pd] | Pd
product | 2-Hydroxy-N-[(S)-5-(2-hydroxy-ethyl)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | OC(C(=O)N[C@H]1CN(C2=C(N(C1=O)CC(F)(F)F)C=CC=C2)CCO)(C(=O)NCC(C(F)(F)F)(F)F)C | C20H22F8N4O5
